US08138187B2
(±)-N,N-Dimethyl-N-[4-(3-methyl-1H-indol-2-yl)-1-phenylcyclohex-3-enyl]amine (550 mg, 1.66 mmol) were dissolved in HBr/glacial acetic acid (33% HBr, 20 ml). Sn powder (1 g, 8.5 mmol) was then added to the mixture in portions in the course of 30 min. When the addition had ended, the reaction mixture was stirred for a further 30 min.—For working up, the mixture was concentrated to dryness on a rotary evaporator. The residue which remained was rendered basic by addition of 2N NaOH (20 ml). The aqueous mixture obtained was extracted with ethyl acetate (4×20 ml). The combined organic phases were dried with Na2SO4 and then concentrated. The residue obtained (530 mg) was recrystallized from methanol (60 ml). N,N-Dimethyl-N-[4-(3-methyl-1H-indol-2-yl)-1-phenylcyclohexyl]amine (less polar isomer) was obtained in this way in a yield of 222 mg (40%, melting point: from 204° C.).

reactant | (±)-N,N-Dimethyl-N-[4-(3-methyl-1H-indol-2-yl)-1-phenylcyclohex-3-enyl]amine | 1.66 mmol, 550 mg | CN(C1(CC=C(CC1)C=1NC2=CC=CC=C2C1C)C1=CC=CC=C1)C | C23H26N2
solvent | HBr | 20 ml | Br | BrH
product | N,N-Dimethyl-N-[4-(3-methyl-1H-indol-2-yl)-1-phenylcyclohexyl]amine | 55% yield | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1C)C1=CC=CC=C1)C | C23H28N2
